US06943257B2
A solution of 57% aqueous HI (3.29 ml, 25 mmol) dissolved in DMSO (25 ml) was added dropwise to a solution of 4-aminobenzophenone (0.986 g, 5 mmol) in a mixture of 25 ml of DMSO and KNO2 (0.851 g, 10 mmol) at 35° C. with agitation. The added mixture was stirred at 35° C. for 10 minutes and then was transferred to a solution containing K2CO3 (5 g) in 100 ml ice-water. The reaction mixture was then taken up in ether, and then the ethereal extracts were washed with water and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave the crude 4-iodobenzophenone. The crude product was further purified by column chromatography to obtain 4-iodobenzophenone. The yield determined by gas chromatography was 88% (based on decane as an internal standard).

reactant | HI | 25 mmol, 3.29 ml | I | HI
reactant | 4-aminobenzophenone | 5 mmol, 0.986 g | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 4-iodobenzophenone | IC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9IO
